US04753941
The procedure is similar to that described in Example 2, but starting with 5,6-dihydro-1,4-oxathiin-2-carboxylic acid (7.3 g), N,N'-carbonyldiimidazole (9.7 g) and 2-amino-7-chloro-1,8-naphthyridine (7.2 g). The product obtained by precipitation in water is purified by recrystallization in dimethylformamide (60 cc). N-(7-Chloro-1,8-naphthyridin-2-yl)-5,6-dihydro-1,4-oxathiin-2-carboxamide (5.9 g), m.p. 270° C., is thereby obtained.

reactant | 5,6-dihydro-1,4-oxathiin-2-carboxylic acid | 7.3 g | O1C(=CSCC1)C(=O)O | C5H6O3S
reactant | 2-amino-7-chloro-1,8-naphthyridine | 7.2 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
solvent | water | O | H2O
product | N-(7-Chloro-1,8-naphthyridin-2-yl)-5,6-dihydro-1,4-oxathiin-2-carboxamide | 5.9 g | ClC1=CC=C2C=CC(=NC2=N1)NC(=O)C=1OCCSC1 | C13H10ClN3O2S
